US08314233B2
3-difluoromethyl-1-methyl-1H-pyrazol-4-ylcarboxylic acid (one-pot batch)
At −30° C., difluoroacetyl fluoride (18.7 g, 0.187 mol; 98%) was introduced into a solution of methyl 3-piperidin-1-ylacrylate (99%, 29.05 g, 0.17 mol) and triethylamine (25.8 g, 0.255 mol) in toluene (250 ml). The reaction mixture was stirred at −30° C. for 3 h and then, over a period of 1 hour, warmed to room temperature. The reaction mixture was washed with deionized water (250 ml). After separation of the phases, the aqueous phase was extracted once with toluene (200 ml). The toluene phases were combined and, under reduced pressure, concentrated to about 350 ml. The reaction solution obtained in this manner was, at −50° C., added dropwise to a solution of methylhydrazine (8.78 g, 0.187 mol) in toluene (150 ml). The reaction mixture was stirred at −50° C. for 2 h and then, over a period of 1 hour, warmed to room temperature. Aqueous sodium hydroxide solution (10%, 105.3 g, 0.263 mol) was then added, and the reaction mixture was heated under reflux conditions for 2 h. After cooling to room temperature, the phases were separated. The toluene phase was extracted with aqueous sodium hydroxide solution (10% strength, 100 ml). The aqueous phases were combined, adjusted to a pH of 1 using hydrochloric acid (conc.) and cooled to 0° C. The precipitated solid was filtered off, washed with cyclohexane and dried at 60° C. under reduced pressure. This gave 3-difluoromethyl-1-methyl-1H-pyrazol-4-ylcarboxylic acid in an amount of 21.1 g (65% yield) in a purity of 91% (according to quant. HPLC). 1H-NMR (CDCl3): δ=3.85 (s, 2H), 3.95 (s, 3H), 7.12 (t, 1H), 7.9 ppm (s, 1H).

reactant | difluoroacetyl fluoride | 0.187 mol, 18.7 g | FC(C(=O)F)F | C2HF3O
reactant | methyl 3-piperidin-1-ylacrylate | 0.17 mol, 29.05 g | N1(CCCCC1)C=CC(=O)OC | C9H15NO2
reactant | triethylamine | 0.255 mol, 25.8 g | C(C)N(CC)CC | C6H15N
reactant | methylhydrazine | 0.187 mol, 8.78 g | CNN | CH6N2
reactant | sodium hydroxide | 0.263 mol, 105.3 g | [OH-].[Na+]
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 3-difluoromethyl-1-methyl-1H-pyrazol-4-ylcarboxylic acid | 65% yield | FC(C1=NN(C=C1C(=O)O)C)F | C6H6F2N2O2
